US09388185B2
Step 1. 1-Methyl-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine
Sodium triacetoxyborohydride (0.066 g, 0.31 mmol) was added to a solution of 1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperazine (60.0 mg, 0.208 mmol, from Boron Molecular) and 11.0 M aqueous formaldehyde (0.057 mL, 0.62 mmol) in methylene chloride (0.8 mL, 10 mmol) and then the reaction was stirred at r.t. for 1 hour. The mixture was diluted with methylene chloride, washed with saturated NaHCO3, water, brine, then dried over Na2SO4, filtered and concentrated to provide the product which was used in the next step. LCMS calculated for C17H28BN2O2 (M+H)+: m/z=303.2. Found 303.2.

reactant | Sodium triacetoxyborohydride | 0.31 mmol, 0.066 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperazine | 0.208 mmol, 60.0 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CCNCC1)C | C16H25BN2O2
reactant | formaldehyde | 0.62 mmol, 11.0 M, 0.057 mL | C=O | CH2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mmol, 0.8 mL | C(Cl)Cl | CH2Cl2
product | 1-Methyl-4-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperazine | CN1CCN(CC1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C17H27BN2O2
